US06093732
N-[(4-Chlorophenyl)methyl]-4-hydroxy-7-(trifluoromethyl)-3-quinoline-carboxamide
To a solution of 0.892 g 1,1'-carbonyldiimidazole in 30 mL of tetrahydrofuran is added 1.29 g 4-hydroxy-7-trifluoromethyl-3-quinolinecarboxylic acid. The reaction is stirred at room temperature for 1 h. A solution of 0.91 mL of 4-chlorobenzylamine in 10 mL of tetrahydrofuran is added dropwise. The reaction is allowed to warm slowly to room temperature and stirred for 18 h. The reaction mixture is concentrated in vacuo. The residue is taken up in 100 mL of dichloromethane and filtered. The filtrate is chromatographed twice, eluting with 5% methanol/dichloromethane. Fractions homogeneous by TLC are combined and concentrated in vacuo to yield a pale yellow solid. The solid is recrystallized from ethyl acetate to yield 0.298 g of the title compound as a white crystalline solid.

reactant | 1,1'-carbonyldiimidazole | 0.892 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-hydroxy-7-trifluoromethyl-3-quinolinecarboxylic acid | 1.29 g | OC1=C(C=NC2=CC(=CC=C12)C(F)(F)F)C(=O)O | C11H6F3NO3
reactant | 4-chlorobenzylamine | 0.91 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[(4-Chlorophenyl)methyl]-4-hydroxy-7-(trifluoromethyl)-3-quinoline-carboxamide | 0.298 g | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=CC(=CC=C2C1O)C(F)(F)F | C18H12ClF3N2O2
